US05639748
A solution of 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepin-6-amine, (10 g, 47.5 mmol) in acetic acid (34 ml) and water (20 ml) was stirred, treated with sulfuric acid (7.5 ml), cooled to 5° C. and treated with a solution of sodium nitrite (3.65 g, 53 mmol) in water (7.5 ml) added below the surface over 20 minutes. The mixture was added dropwise under the surface of a stirred mixture prepared from cupric sulfate pentahydrate (14.2 g, 57 mmol) in water (35 ml), potassium cyanide (15.4 g, 240 mmol), ice (24 g), sodium bicarbonate (31.8 g, 380 mmol) in water (36 ml) and toluene (35 ml) at 50°-55° C. The mixture was stirred for 15 minutes at 50° C. and for 1 hour at 25° C., treated with a solution of sodium bicarbonate (70 g) in water (700 ml) to pH 8 and then with 10% sodium hydroxide (300 ml). The mixture was extracted with ethyl acetate and the organic phase was washed with aqueous sodium hydroxide and brine, dried with magnesium sulfate and concentrated. The residual oil was treated with ethereal hydrogen chloride to give 8.3 g (68%) of 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine-6-carbonitrile; mp 288°-290° C.

reactant | 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepin-6-amine | 47.5 mmol, 10 g | ClC1=CC=C(C2=C1CCN(CC2)C)N | C11H15ClN2
reactant | sulfuric acid | 7.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 53 mmol, 3.65 g | N(=O)[O-].[Na+]
reactant | potassium cyanide | 240 mmol, 15.4 g | [C-]#N.[K+]
reactant | sodium bicarbonate | 380 mmol, 31.8 g | C([O-])(O)=O.[Na+]
reactant | sodium bicarbonate | 70 g | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 300 ml | [OH-].[Na+]
solvent | acetic acid | 34 ml | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
solvent | water | 7.5 ml | O | H2O
solvent | water | 35 ml | O | H2O
solvent | water | 36 ml | O | H2O
solvent | water | 700 ml | O | H2O
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine-6-carbonitrile | 8.3 g, 68% | ClC1=CC=C(C2=C1CCN(CC2)C)C#N | C12H13ClN2
